US20010001799A1
A solution of 30.0 g of 5-ethyl-salicylaldehyde (Reg.No. 52411-35-5) in 500 ml of DMF was treated with 36.0 g of sodium iodide and 67.6 g of Chloroamine T and stirred for one hour at room temperature. The reaction mixture was concentrated in a high vacuum, poured into ice-water, made acid with 2N hydrochloric acid and extracted with ethyl acetate. The organic phases were washed with aqueous sodium thiosulphate solution, saturated sodium chloride solution and ice-water, dried over sodium sulphate and concentrated. The residue was taken up in ether-hexane (1:1) and filtered. The filtrate was concentrated and gave 45.8 g of 5-ethyl-2-hydroxy-3-iodo-benzaldehyde; MS (EI) m/z 276 M+.

reactant | 5-ethyl-salicylaldehyde | 30.0 g | C(C)C1=CC=C(C(C=O)=C1)O | C9H10O2
reactant | sodium iodide | 36.0 g | [I-].[Na+]
reactant | Chloroamine | 67.6 g | ClN | ClH2N
solvent | DMF | 500 ml | CN(C)C=O | C3H7NO
product | 5-ethyl-2-hydroxy-3-iodo-benzaldehyde | 45.8 g | C(C)C=1C=C(C(=C(C=O)C1)O)I | C9H9IO2
